US05739271
In a 250 ml round bottom flask equipped with a magnetic stir bar, 1.92 g (3.6 mmoles) of dihexadecylglycerol (Sigma Chemicals) was dissolved into 120 ml of toluene. To this solution were added 3.54 g (10.7 mmoles) of carbon tetrabromide and 2.80 g (10.7 mmoles) of triphenylphosphine and the reaction mixture was stirred overnight (18 hr) at room temperature. The yellow suspension was filtered and the filtrate concentrated on a rotary evaporator to afford a white solid. This residue was dissolved into toluene, washed once with saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated under vacuum on a rotary evaporator to afford 2.5 g of the crude product as a white powder. This crude product was purified by flash column chromatography on a silica gel 60 (E. Merck, Germany) column by sequential elution with 100 ml each of hexane, 1% ethyl acetate in hexane, 2% ethyl acetate in hexane and finally with 3% ethyl acetate in hexane. Fractions (8 ml) were collected and screened by thin-layer chromatography ("TLC") and those fractions that contained pure product (silica gel, 5% ethyl acetate in hexane, Rf=0.59) were pooled. The pooled fractions were concentrated under vacuum on a rotary evaporator to afford a quantitative yield of the 1,2-O-dihexadecyl-3-bromo-1,2-propanediol as a white powder.

reactant | dihexadecylglycerol | 3.6 mmoles, 1.92 g | C(CCCCCCCCCCCCCCC)C(C(C(O)CCCCCCCCCCCCCCCC)O)O | C35H72O3
reactant | carbon tetrabromide | 10.7 mmoles, 3.54 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 10.7 mmoles, 2.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-O-dihexadecyl-3-bromo-1,2-propanediol | quantitative yield | C(CCCCCCCCCCCCCCC)C(C(CBr)OCCCCCCCCCCCCCCCC)O | C35H71BrO2
